Moja symulacja


VE 0 1 DC 10.0
RR1 0 2 100.0
LL 2 3 0.04
CC 3 1 10.0
RR2 2 1 20.0
RR3 2 1 100.0
RR4 3 2 100.0
II8 4 2 DC 1.0
R20 1 4 20.0
.control
op
print v(1) v(2) v(3) v(4) 
wrdata outresult v(1) v(2) v(3) v(4) 
.endc
